US04472579
A mixture of 1.7 g of anhydrous piperazine and 1.4 g of 1-ethyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid methyl ester in 3 ml of pyridine was refluxed with stirring for 5 hrs. The reaction mixture was cooled to give crude crystals. The crude crystals were recrystallized from a mixture of methylene chloride and methanol to give 1.55 g (77.5% yield) of 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid methyl ester. mp: 179°-181° C.

reactant | piperazine | 1.7 g | N1CCNCC1 | C4H10N2
reactant | 1-ethyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid methyl ester | 1.4 g | COC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)Cl)CC | C13H11ClFNO3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid methyl ester | 1.55 g, 77.5% yield | COC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)N1CCNCC1)CC | C17H20FN3O3
